US06165944
0.21 g (1.9 mmol) of 1-ethyl-5-hydroxy-1H-pyrazole and 0.39 g (1.9 mmol) of N,N-dicyclohexylcarbodiimide were added to 0.59 g (1.9 mmol) of 2,4-dichloro-3-(1-methyl-3-methylcarbonyl-1H-pyrazol-5-yl)benzoic acid in 8 ml of acetonitrile. The mixture was stirred at room temperature for 12 hours and 25 ml of 5% strength sodium carbonate solution and 50 ml of ethyl acetate were added, insoluble components were filtered off and the organic phase was separated off, dried and concentrated. The residue was subsequently chromatographed over silica gel (eluent: ethyl acetate:cyclohexane=1:1). 0.21 g (27% of theory) of (1-ethylpyrazol-5-yl) 2,4-dichloro-3-(1-methyl-3-methylcarbonyl-1H-pyrazol-5-yl)benzoate was obtained.

reactant | 1-ethyl-5-hydroxy-1H-pyrazole | 1.9 mmol, 0.21 g | C(C)N1N=CC=C1O | C5H8N2O
reactant | 2,4-dichloro-3-(1-methyl-3-methylcarbonyl-1H-pyrazol-5-yl)benzoic acid | 1.9 mmol, 0.59 g | ClC1=C(C(=O)O)C=CC(=C1C1=CC(=NN1C)C(=O)C)Cl | C13H10Cl2N2O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | (1-ethylpyrazol-5-yl) 2,4-dichloro-3-(1-methyl-3-methylcarbonyl-1H-pyrazol-5-yl)benzoate | 0.21 g, 27% | ClC1=C(C(=O)OC2=CC=NN2CC)C=CC(=C1C1=CC(=NN1C)C(=O)C)Cl | C18H16Cl2N4O3
